US05189181
A mixture of 6-ethyl-2-methylaniline (30.0 parts) and methanol (100 parts) was stirred at ambient temperature. Glyoxylic acid 50% w/v (16.5 parts) was added and the mixture was stirred for 24 hours at ambient temperature. The precipitated product was isolated by filtration, washed with methanol (20 parts) and dried to yield di(4-amino-5-ethyl-3-methylphenyl)acetic acid (31.0 parts).

reactant | 6-ethyl-2-methylaniline | C(C)C1=CC=CC(=C1N)C | C9H13N
reactant | Glyoxylic acid | C(C=O)(=O)O | C2H2O3
solvent | methanol | CO | CH4O
product | di(4-amino-5-ethyl-3-methylphenyl)acetic acid | NC1=C(C=C(C=C1CC)C(C(=O)O)C1=CC(=C(C(=C1)CC)N)C)C | C20H26N2O2
